US06124343
4-(1,3-Benzodioxol-5-ylmethoxy)-2-fluorobenzonitrile
A mixture of 2-fluoro-4-hydroxybenzonitrile (S. M. Kelly, Helv.Chim.Acta. 1984, Volume 67, P.1572-1579) (30 g), potassium carbonate (45.36 g) and 3,4-methylenedioxybenzyl chloride (42.65 g) in dimethylformamide (500 ml) was stirred at 90° C. for 2 hours. The reaction mixture was filtered and the filtrate evaporated. The residue was stirred with ethyl acetate (500 ml) and filtered affording the title compound (32.1 g) as a cream coloured solid, m.p. 139-140° C.

reactant | 2-fluoro-4-hydroxybenzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | potassium carbonate | 45.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-methylenedioxybenzyl chloride | 42.65 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 4-(1,3-Benzodioxol-5-ylmethoxy)-2-fluorobenzonitrile | 32.1 g | O1COC2=C1C=CC(=C2)COC2=CC(=C(C#N)C=C2)F | C15H10FNO3
